US07700591B2
To a solution of tert-butyl 3-oxocyclopentanecarboxylate (19.8 g, 107 mmol) in 1:1 DCM/methanol (150 mL) was added trimethylorthoformate (46.8 mL, 428 mmol), followed by TsOH.H2O (˜0.5 g). The reaction mixture was stirred at rt for 2 h. Then more TsOH.H2O (˜0.25 g) was added and the reaction mixture was stirred overnight. The reaction mixture was concentrated at rt and the resulting residue was dissolved in ether and washed with saturated NaHCO3 solution, then with brine. The ethereal layer was dried over anhydrous MgSO4, filtered, and concentrated. Purification by flash chromatography (silica, 15% ethyl acetate/hexane) gave tert-butyl 3,3-dimethoxycyclopentanecarboxylate. 1H NMR (500 MHz, CDCl3): 3.21 (s, 3H), 3.20 (s, 3H), 2.80 (m, 1H), 2.10 to 1.80 (bm, 6H), 1.46 (s, 9H). 13C NMR (125 MHz, CDCl3): 174.9, 111.2, 80.3, 67.8, 49.2, 42.5, 37.4, 33.8, 28.3, 22.0.

reactant | tert-butyl 3-oxocyclopentanecarboxylate | 107 mmol, 19.8 g | O=C1CC(CC1)C(=O)OC(C)(C)C | C10H16O3
reactant | trimethylorthoformate | 428 mmol, 46.8 mL | COC(OC)OC | C4H10O3
reactant | TsOH.H2O | ˜0.5 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | TsOH.H2O | ˜0.25 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | DCM methanol | 150 mL | C(Cl)Cl.CO
product | tert-butyl 3,3-dimethoxycyclopentanecarboxylate | COC1(CC(CC1)C(=O)OC(C)(C)C)OC | C12H22O4
